US07847043B2
Preparation of 2-methyl-2-(diphenylbismuthanyl)-propionitrile
A 0.45 ml (5 mmole) of isobutyronitrile (Tokyo Kasei Co., Ltd.) was dissolved in 5 ml of THF, and the mixture was chilled to −78° C. under nitrogen atmosphere. Thereto was slowly added dropwise lithium diisopropylamine obtained above. The reaction mixture was stirred at −78° C. for 10 minutes and then heated to 0° C. Thereto was added dropwise a solution of 2.223 g (5 mmole) of diphenylbismuthanyl bromide prepared in Preparation Example 3 in 5 ml of THF.

reactant | isobutyronitrile | 5 mmole, 0.45 ml | C(C(C)C)#N | C4H7N
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | diphenylbismuthanyl bromide | 5 mmole, 2.223 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-methyl-2-(diphenylbismuthanyl)-propionitrile | CC(C#N)(C)[Bi](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C6H5.C4H6N.Bi/c2*1-2-4-6-5-3-1;1-4(2)3-5;/h2*1-5H;1-2H3;
